US06300334B1
d) 5-(3-Hydroxypropoxy)-3-methyl-1-(2-methylpropyl)-6-[1-(pyridin-3-yl)methyl]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
5-{3-[(tetrahydro-2H-pyran-2-yl)oxy]propoxy}-3-methyl-1-(2-methylpropyl)-6-[(3-pyridinyl)methyl]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (230 mg) was dissolved in methanol (3 ml). Toluenesulfonic acid (190 mg) was added and the mixture was stirred for 5 h. The methanol was evaporated, sodium bicarbonate (aqueous) and ethyl acetate were added and the phases were separated. The aqueous phase was extracted twice with ethyl acetate, the ethyl acetate layers were combined, washed with brine, dried, filtered and evaporated. The residue was purified by chromatography (ethyl acetate) and HPLC (dichloromethane:ethanol 100-90:0-10) then dissolved in aqueous ethanol and precipitated by addition of water to give the title compound (41 mg).

reactant | 5-{3-[(tetrahydro-2H-pyran-2-yl)oxy]propoxy}-3-methyl-1-(2-methylpropyl)-6-[(3-pyridinyl)methyl]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 230 mg | O1C(CCCC1)OCCCOC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC=2C=NC=CC2 | C25H33N3O5S
reactant | Toluenesulfonic acid | 190 mg | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 3 ml | CO | CH4O
product | 5-(3-Hydroxypropoxy)-3-methyl-1-(2-methylpropyl)-6-[1-(pyridin-3-yl)methyl]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 41 mg | OCCCOC1=C(SC=2N(C(N(C(C21)=O)C)=O)CC(C)C)CC=2C=NC=CC2 | C20H25N3O4S
